US05688995
154.1 g (1.0 mol) of 2,4-dihydroxybenzoic acid, 141.2 g (1.5 mol) of phenol, 500 ml of toluene and 1 ml of dimethylformamide are placed in a 1.5 l sulfonating flask fitted with stirrer, condenser, dropping funnel and gas outlet. 178.5 g (1.5 mol) of thionyl chloride are added dropwise over the course of 2.5 hours at an internal temperature of 100-105 C. The reddish, clear solution is then refluxed overnight (110-115 C.). Toluene and phenol are distilled off in vacuo, the highly viscous residue (271.5 g) is stirred in 300 ml of toluene/cyclohexane (7/3) and the mixture is left overnight to crystallize. The precipitate is filtered off with suction under cold conditions (10 C.) and the solid product is washed with 3×50 ml of toluene/cyclohexane (7/3) and then dried at 80 C. in vacuo, to give 125.5 g (54.4% of theory) of phenyl 2,4-dihydroxybenzoate (m.p. 135-137 C.).

reactant | 2,4-dihydroxybenzoic acid | 1.0 mol, 154.1 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | phenol | 1.5 mol, 141.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 1.5 mol, 178.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | phenyl 2,4-dihydroxybenzoate | 125.5 g, 54.4% | OC1=C(C(=O)OC2=CC=CC=C2)C=CC(=C1)O | C13H10O4
